US06303593B1
3-Methyl-2-phenylbenzoic acid
A mixture of 0.35 g (1.18 mmol) of benzyl-3-methyl-2-phenylbenzoate and 0.25 g of 10% Pd/C in 8 mL of a 4.4% solution of HCO2H in methanol was heated at reflux for 2 h. The reaction mixture was filtered through a thin layer of celite and concentrated to give 0.25 g of the title compound as a white solid.

reactant | benzyl-3-methyl-2-phenylbenzoate | 1.18 mmol, 0.35 g | C(C1=CC=CC=C1)OC(C1=C(C(=CC=C1)C)C1=CC=CC=C1)=O | C21H18O2
reactant | HCO2H | C(=O)O | CH2O2
solvent | methanol | CO | CH4O
catalyst | Pd/C | 0.25 g | [Pd] | Pd
product | 3-Methyl-2-phenylbenzoic acid | 0.25 g | CC=1C(=C(C(=O)O)C=CC1)C1=CC=CC=C1 | C14H12O2
